US05962458
A mixture of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (187 mg, 0.75 mmol), (prepared as described for the starting material in Example 22), 4-bromomethylbenzonitrile (147 mg, 0.75 mmol) and potassium carbonate (173 mg, 1.25 mmol) in DMF (5 ml) was heated at 50° C. for 1 hour. Methanol (5 ml) and potassium carbonate (138 mg, 1 mmol) were added and the mixture stirred at 65° C. for 2 hours. The solvent was removed by evaporation, water was added to the residue and the mixture adjusted to pH7 with 2M hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and dried under vacuum. The solid was purified by column chromatography eluting with methylene chloride/methanol (95/5). The purified product was triturated with ether, collected by filtration and dried. The solid was dissolved in methylene chloride/isopropanol and a 5M solution of hydrogen chloride in isopropanol (0.5 ml) was added. The mixture was concentrated by evaporation and the resulting precipitate collected by filtration, washed with methylene chloride and dried under vacuum to give 7-(4-cyanobenzyloxy)-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (60 mg, 25%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 0.75 mmol, 187 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | 4-bromomethylbenzonitrile | 0.75 mmol, 147 mg | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | potassium carbonate | 1.25 mmol, 173 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Methanol | 5 ml | CO | CH4O
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-(4-cyanobenzyloxy)-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 60 mg, 25% | Cl.C(#N)C1=CC=C(COC2=C(C=C3C(=NC=NC3=C2)NC2=C(C=C(C(=C2)O)C)F)OC)C=C1 | InChI=1S/C24H19FN4O3.ClH/c1-14-7-18(25)20(9-21(14)30)29-24-17-8-22(31-2)23(10-19(17)27-13-28-24)32-12-16-5-3-15(11-26)4-6-16;/h3-10,13,30H,12H2,1-2H3,(H,27,28,29);1H
